US07696223B2
b) [(7-Hydroxy-2-phenyl-4-thiazol-2-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-phenyl-4-thiazol-2-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (25 mg, 0.06 mmole) and glycine (96 mg, 1.28 mmole) in 0.5 M sodium methoxide/methanol (2.4 ml) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. It was dissolved in water (25 ml) and extracted with dichloromethane (2×50 ml). The remaining aqueous solution was acidified to pH=2 with 0.1 N HCl (1.8 ml). The resulting suspension was extracted with isopropanol/chloroform (50 ml, 1:3) dichloromethane, washed with brine, dried over sodium sulfate and concentrated in vacuo to give a yellow solid which was further purified by MPLC on a C18 column with a gradient of formic acid, acetonitrile and water to give the title compound as a yellow solid (8 mg). 1H NMR (DMSO-d6, 200 MHz): δ=8.21 (m, 2H), 8.01 (m, 1H), 7.89 (m, 1H), 7.63 (m, 3H), 6.51 (m, 1H), 4.10 (d, J=5.4 Hz, 2H); MS: (+) m/z 413.22 (M+1).

reactant | 7-hydroxy-2-phenyl-4-thiazol-2-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.06 mmole, 25 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C=1SC=CN1)N=C(S2)C2=CC=CC=C2)O | C18H13N3O3S2
reactant | glycine | 1.28 mmole, 96 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 2.4 ml | C[O-].[Na+].CO
product | [(7-Hydroxy-2-phenyl-4-thiazol-2-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 8 mg | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)C=1SC=CN1)N=C(S2)C2=CC=CC=C2 | C18H12N4O4S2
